US08859773B2
Step 1: 7-bromo-3-methoxyisoquinoline
A mixture of 7-bromo-3-chloroisoquinoline (100 mg, 0.4 mmol) and sodium methoxide (113 mg, 2.1 mmol) in diglyme (1 mL) was heated to 150° C. for 1 hour. The reaction was cooled to room temperature and diluted with toluene and water. The layers were separated and the aqueous layer was extracted with toluene (3×). The combined organics were washed with water and brine, dried over sodium sulfate, filtered, and concentrated to an oil. The oil was dried under vacuum overnight to give the title compound (83 mg, 85%) as a yellow solid. +ESI (M+H+1) 240.1; 1H NMR (400 MHz, CDCl3, δ): 8.87 (s, 1H), 8.01-8.05 (m, 1H), 7.58-7.64 (m, 1H), 7.53-7.58 (m, 1H), 6.97 (s, 1H), 4.02 (s, 3H).

reactant | 7-bromo-3-chloroisoquinoline | 0.4 mmol, 100 mg | BrC1=CC=C2C=C(N=CC2=C1)Cl | C9H5BrClN
reactant | sodium methoxide | 2.1 mmol, 113 mg | C[O-].[Na+]
solvent | diglyme | 1 mL | COCCOCCOC | C6H14O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 7-bromo-3-methoxyisoquinoline | 83 mg, 85% | BrC1=CC=C2C=C(N=CC2=C1)OC | C10H8BrNO
